US04916137
N-[3-Oxo-8-[3-(trifluoromethyl)phenyl]-3H,6H-1,4,5a,8a-tetraazaacenaphthylen-5-yl]-4-(phenylmethyl)-1-piperazineacetamide
A 1.000 g amount of 2-chloro-N-[3-oxo-8-[3-(trifluoromethyl)phenyl]-3H,6H-1,4,5a,8a-tetraazaacenaphthylen-5-yl]acetamide (prepared in the manner described in Example 31) was dissolved in 50 ml of dry tetrahydrofuran, then 430 mg of 1-benzylpiperazine was added to the mixture in one portion. The reaction mixture was heated at reflux for 16 hours. The mixture was cooled, made basic with 1N sodium hydroxide and extracted with chloroform. The solvent was evaporated and the solid was purified by conventional means to give 426 mg of the desired product as a brown solid.

reactant | 2-chloro-N-[3-oxo-8-[3-(trifluoromethyl)phenyl]-3H,6H-1,4,5a,8a-tetraazaacenaphthylen-5-yl]acetamide | ClCC(=O)NC1=NC(C=2C=NN3C(=CCN1C32)C3=CC(=CC=C3)C(F)(F)F)=O | C17H11ClF3N5O2
reactant | 1-benzylpiperazine | 430 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-[3-Oxo-8-[3-(trifluoromethyl)phenyl]-3H,6H-1,4,5a,8a-tetraazaacenaphthylen-5-yl]-4-(phenylmethyl)-1-piperazineacetamide | 426 mg | O=C1C=2C=NN3C(=CCN(C(=N1)NC(CN1CCN(CC1)CC1=CC=CC=C1)=O)C32)C3=CC(=CC=C3)C(F)(F)F | C28H26F3N7O2
